US06969714B2
1-Benzyl-5-formyl-2-methylimidazole
Benzyl bromide (21.4 ml, 0.18 mol) was added carefully to a mixture of 4-formyl-2-methylimidazole (18.1 g, 0.16 mol) and potassium carbonate (45.0 g, 0.33 mol) in DMF (100 ml) at 0° C. and the reaction mixture allowed to warm to ambient temperature. The mixture was then partitioned between EtOAc and saturated aqueous sodium hydrogen carbonate solution, the organic phase separated and dried. The volatiles were removed by evaporation to give the title compound as crude mixture of regioisomers 32.0 g, (99%). M/z: 201.

reactant | Benzyl bromide | 0.18 mol, 21.4 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-formyl-2-methylimidazole | 0.16 mol, 18.1 g | C(=O)C=1N=C(NC1)C | C5H6N2O
reactant | potassium carbonate | 0.33 mol, 45.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-5-formyl-2-methylimidazole | C(C1=CC=CC=C1)N1C(=NC=C1C=O)C | C12H12N2O
